US09284333B2
To a solution of 3,4-dihydro-1H-pyrrolo[2,1-c][1,4]thiazine-8-carboxylic acid ethyl ester (Comp. No. 2c) (0.5 g, 2.37 mmol) in anhydrous dichloromethane (1.7 ml) was added trichloro-acetyl chloride (1.08 g, 5.9 mmol). The resulting mixture was stirred overnight at room temperature, after which a second portion of trichloro-acetyl chloride (0.43 g, 2.37 mmol) was added. The resulting mixture was stirred for 4 h, and then evaporated to dryness. The crude product was purified by silica gel chromatography (eluting with 5 to 50% ethyl acetate in heptane) to give 0.592 g of 6-(2,2,2-Trichloro-acetyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]thiazine-8-carboxylic acid ethyl ester. LC/MS (method 4): Rt=1.41 min; m/z=356.09 (M+H+).

reactant | 3,4-dihydro-1H-pyrrolo[2,1-c][1,4]thiazine-8-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=CN2C1CSCC2 | C10H13NO2S
reactant | trichloro-acetyl chloride | 5.9 mmol, 1.08 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | trichloro-acetyl chloride | 2.37 mmol, 0.43 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | dichloromethane | 1.7 ml | ClCCl | CH2Cl2
product | 6-(2,2,2-Trichloro-acetyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]thiazine-8-carboxylic acid ethyl ester | 0.592 g | C(C)OC(=O)C=1C=C(N2C1CSCC2)C(C(Cl)(Cl)Cl)=O | C12H12Cl3NO3S
